US06878831B2
3) 2-Hydroxy-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide
Sodium hydroxide (14.9 g, 0.373 mol) was dissolved in water (150 ml). To this solution was added little by little 2-chloro-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane-2-one (38.6 g, 0.124 mol) with heating to 100 to 102° C. and stirring for 30 min. The solution was stirred at the same temperature for 20 min, and the reaction solution was cooled to 45° C. Concentrated hydrochloric acid (37 ml) was added thereto to adjust the solution to acidic. The solution was stirred at 15° C. for 30 min. The crystals were collected by filtration, washed with water and then ether, and dried under reduced pressure at 60° C. to give the title compound as pale ocher crystals having the melting point of 237 to 238° C. (33.87 g, yield 93.2%).

reactant | Sodium hydroxide | 0.373 mol, 14.9 g | [OH-].[Na+]
reactant | 2-chloro-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane-2-one | 0.124 mol, 38.6 g | ClP1(OCC(C(O1)C1=CC2=CC=CC=C2C=C1)(C)C)=O | C15H16ClO3P
reactant | hydrochloric acid | 37 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 2-Hydroxy-5,5-dimethyl-4-(2-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide | yield 93.2% | OP1(OCC(C(O1)C1=CC2=CC=CC=C2C=C1)(C)C)=O | C15H17O4P
